US04048191
To a stirred solution of 2.0g. (0.0078 moles) of 1-methyl- 5-(p-toluoyl)pyrrole-2-acetic acid in 40 ml. of glacial acetic acid is added dropwise a solution of 1.2g (0.0078 moles) of bromine in 3 ml. of glacial acetic acid. The mixture is stirred at room temperature for two hours, after which it is poured into 300 ml. of water, and the solid which forms is filtered off. Recrystallization from ether-hexane yields 3-bromo-1-methyl-5-(p-toluoyl) pyrrole-2-acetic acid as a white solid; m.p. 162°-164° C.

reactant | 1-methyl- 5-(p-toluoyl)pyrrole-2-acetic acid | 0.0078 moles | CN1C(=CC=C1C(=O)C1=CC=C(C=C1)C)CC(=O)O | C15H15NO3
reactant | bromine | 0.0078 moles, 1.2g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-bromo-1-methyl-5-(p-toluoyl) pyrrole-2-acetic acid | BrC1=C(N(C(=C1)C(=O)C1=CC=C(C=C1)C)C)CC(=O)O | C15H14BrNO3
